### ISSUE TITLE
[audit] abstraction: exec-result contradiction boilerplate in StatementEquivalence.lean (~180 lines)

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/verity#1089]
## Finding

`Compiler/Proofs/YulGeneration/StatementEquivalence.lean` contains **60 copies** of a 3-line exec-result contradiction block. The `IRExecResult`/`YulExecResult` types have 4 constructors (`continue`, `return`, `stop`, `revert`), and when a proof needs to show alignment after matching on one constructor, it exhaustively case-splits on all 4 and dismisses 3 with identical blocks:

```lean
| «return» _ _ =>
    have : False := by
      simpa [execResultsAligned, hIRPost, hYulPost] using hPost
    cases this
```

This pattern appears:
- **48 times** in `StatementEquivalence.lean`
- **12 times** in `Equivalence.lean`
- Contributing **~180 lines** of pure boilerplate

The `for_` loop case in `stmt_and_stmts_equiv` (lines 235-493, ~260 lines) is worst — it performs 3 nested levels of 4-way exhaustion.

## Impact

- `stmt_and_stmts_equiv` is 464 lines (the longest proof in the codebase)
- Fragile to any change in `IRExecResult`/`YulExecResult` constructors
- Obscures the actual proof logic under repetitive case elimination

## Suggested fix

Extract a helper lemma or custom tactic:

```lean
-- Option A: Inversion lemma
theorem execResultsAligned_continue_inv (halign : execResultsAligned (.continue ...) yr) :
  ∃ ..., yr = .continue ... := by ...

-- Option B: Custom tactic
macro "exec_align" : tactic => ...
```

Estimated savings: ~300 lines across 3 files. `stmt_and_stmts_equiv` would shrink from ~464 to ~200 lines.

_Discovered by automated audit (Priority 3: Abstraction issues)._
